US09388161B2
Trifluoroacetic acid (0.5 mL, 6.49 mmol) was added to a solution of (S)-tert-butyl 4-(4-(1-acetyl-2-methyl-5-propoxy-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.063 g, 0.127 mmol) in dichloromethane (2.0 mL) and the reaction mixture stirred at rt for 1.5 h. The reaction mixture was concentrated and the residue was partitioned between dichloromethane and saturated aqueous sodium bicarbonate solution. The organic phase was separated, dried over anhydrous sodium sulfate, filtered, and concentrated to afford (S)-1-(2-methyl-6-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.045 g, 89%) as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.91-1.12 (m, 6H), 1.18-1.37 (m, 1H), 1.57-1.88 (m, 5H), 1.97 (br d, J=10.26 Hz, 2H), 2.07 (s, 3H), 2.16-2.40 (m, 2H), 2.53-2.66 (m, 2H), 2.73-2.89 (m, 1H), 3.03 (br d, J=12.61 Hz, 2H), 3.46-3.65 (m, 2H), 4.09-4.30 (m, 1H), 4.62 (br d, J=5.86 Hz, 1H), 7.11 (br d, J=8.21 Hz, 1H), 7.38 (d, J=8.21 Hz, 1H), 7.84 (s, 1H), 8.09 (s, 1H). MS (ESI, pos. ion) m/z 397 [M+H]+.

reactant | Trifluoroacetic acid | 6.49 mmol, 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-tert-butyl 4-(4-(1-acetyl-2-methyl-5-propoxy-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.127 mmol, 0.063 g | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OCCC)C | C28H40N4O4
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | (S)-1-(2-methyl-6-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.045 g, 89% | C[C@@H]1N(C2=CC=C(C(=C2CC1)OCCC)C=1C=NN(C1)C1CCNCC1)C(C)=O | C23H32N4O2
